US07915443B2
5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]-N-[methyl(3-{2-[(2-morpholin-4-ylethyl)amino]-2-oxoethyl}phenyl)oxido--sulfanylidene]nicotinamide
In a manner similar to that described in Example 500, {3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetic acid and 4-(2-aminoethyl)morpholine were reacted to give the title compound (54%).

reactant | {3-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]phenyl}acetic acid | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=S(=O)(C)C=1C=C(C=CC1)CC(=O)O)C | C29H25N5O5S
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]-N-[methyl(3-{2-[(2-morpholin-4-ylethyl)amino]-2-oxoethyl}phenyl)oxido--sulfanylidene]nicotinamide | 54% | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=S(=O)(C2=CC(=CC=C2)CC(=O)NCCN2CCOCC2)C)C1)C | C35H37N7O5S
